US07196111B2
A mixture of 42 mg (0.1 mmol) of 5-(4-bromo-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid methyl ester, 21 mg (0.15 mmol) of 3,5-dimethyl-isoxazoleboronic acid, 7.3 mg (0.01 mmol) of Pd catalyst, and 63 mg (0.3 mmol) of potassium phosphate in 1 mL of 1,4-dioxane was shaken at 95° C. in a sandbath overnight. The reaction mixture was then diluted with dichloromethane, filtered through a small pad of Celite, dried over sodium sulfate and evaporated to give a residue, which was purified via reverse-phase chromatography (Gilson) to afford desired 6-cyclohexyl-5-[4-(3,5-dimethyl-isoxazol-4-yl)-phenyl]-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid methyl ester as a solid as indicated by LC-MS—calcd for C25H26N4O4 [M++H]+: 447.19, found: 447.3. This material was then converted to 6-cyclohexyl-5-[4-(3,5-dimethyl-isoxazol-4-yl)-phenyl]-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid (591) via the well known LiOH saponification protocol (37% yield over 2 steps); LC-MS—calcd for C24H24N4O4 [M++H]+: 433.18, found: 433.1.

reactant | 5-(4-bromo-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid methyl ester | 0.1 mmol, 42 mg | COC(=O)C1=NN2C(NC(=C(C2=O)C2CCCCC2)C2=CC=C(C=C2)Br)=C1 | C20H20BrN3O3
reactant | 3,5-dimethyl-isoxazoleboronic acid | 0.15 mmol, 21 mg | CC1(NOC(=C1)C)B(O)O | C5H10BNO3
reactant | potassium phosphate | 0.3 mmol, 63 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd | 0.01 mmol, 7.3 mg | [Pd] | Pd
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-cyclohexyl-5-[4-(3,5-dimethyl-isoxazol-4-yl)-phenyl]-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid methyl ester | 37% yield | COC(=O)C1=NN2C(NC(=C(C2=O)C2CCCCC2)C2=CC=C(C=C2)C=2C(=NOC2C)C)=C1 | C25H26N4O4
